Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
acetaminophen / hydrocodone
 
Attending: ___.
 
Chief Complaint:
Visual deficits, weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with PMHx notable for tobacco dependence and
multiple traumatic injuries s/p ex-lap with partial colectomy
admitted for acute onset visual deficits and right upper
extremity pain/parasthesias after sustaining traumatic head
injury and fall with loss of consciousness.

Occurred yesterday while working in ___. A
very large wooden beam fell and struck his head with a fragment
lodging in the front of his scalp.  Patient lost consciousness
and awoke on a floor below the one he was working on at the time
of the accident. He is unsure of how long he was unconscious.
Upon awakening he was surrounded by co-workers and immediately
pulled the wooden fragment out of his scalp. Presented to
___ where he underwent initial head imaging and repair 
of
laceration; transferred to ___ for further evaluation of his
neurological complications.

At present, he states that he feels pressure on the right side 
of
his head. Says that his right field of vision is extremely 
blurry
though he is able to see light. Regarding his right eye, he
states the he feels pressure and like someone is blowing air 
onto
it when he opens it. 

Additionally describes pins and needles sensation travelling 
down
the lateral side of his right arm. Some associated thoracic
para-spinal tenderness though no other significant back pain. 

Review of systems notable for change in stool consistency and
color. States that since his injury he has noticed it is more
blue and green in color, with abdominal cramping that reminds 
him
of his prior abdominal injury with partial colectomy. No
abdominal pain whatsoever. No nausea, vomiting, hematochezia.

Otherwise denies chest pain, shortness of breath. Unsure when he
had his last tetanus shot.

ED Exam notable for:
96.0 67 125/82 18 97% RA. Agitated, alert and oriented. 
Decreased
visual acuity OD: Light projection OS: ___.  Visual fields by
confrontation notable for right homonymous hemianopsia.
Intraocular pressure OD: 12 OS: 13 mmHg. Decreased sensation in
right V1, V2 distributions to light touch. Strength ___ in right
arm extension and flexion, 4+ out of 5 in right grip.

MR orbit unremarkable. MR head with very few nonspecific FLAIR
white matter hyperintensities of left frontal ___ 
represent
sequela prior trauma. CTA head and neck with no acute process.
Received: 1L bolus, pain control. Neurology consulted.

Transfer VS were 97.6 133/73 60 18 99 RA.

 
Past Medical History:
gunshot wound s/p laparotomy with partial colectomy
right hand fracture
femur fracture
shoulder dislocation
Multiple suicide attempts
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Admission physical exam:
Vitals: 97.6 133/73 60 18 99 RA
General: Well-nourished male in no acute distress.  Mildly
uncomfortable. Right eye shut though able to open on command.
Neuro: Visual field notable for right homonymous hemianopsia. 
Cranial nerves II through XII are grossly intact.  Full strength
of the upper and lower extremities bilaterally.  Full sensation
in the upper and lower extremities bilaterally.  Reflexes 1+
patellar, 1+ brachial, 1+ brachioradialis. Finger-to-nose intact
on left, impaired on right due to visual field deficit. Babinski
downgoing. Gait mildly unsteady.
HEENT: Right eyelid persistently shut though patient is able to
open on command, albeit painful.  2 cm, sutured wound over the
right forehead with surrounding dried blood and hematoma.  Moist
mucous membranes.
Cardiac: Regular rate and rhythm.  No appreciable murmurs.
Pulmonary: Lung fields clear to auscultation bilaterally. 
Breathing comfortably on room air.
Abdomen: Well-healed midline laparotomy scar.  Otherwise soft,
nontender, nondistended.
Back: Right paraspinal tenderness over the border of the 
cervical
and thoracic spine.  Otherwise normal in appearance.
Extremities: Positive right-sided Spurling test.  Fourth and
fifth digit of right hand partially contracted.  Otherwise warm,
well-perfused, nonedematous.

Discharge physical exam:
VS 97.5 PO 112 / 63 70 18 98 Ra 
General: Well-nourished male in no acute distress.  Bandage
covering R eye.
Neuro: Visual field loss in R eye unchanged, sees light but 
unable to count
fingers, vision intact in L eye. PERRL bilaterally. other CN
grossly normal. ___ strength in upper and lower extremities
bilaterally.
HEENT: 2 cm, sutured wound over the right forehead with
surrounding dried blood and hematoma.  Moist mucous membranes.
Cardiac: Regular rate and rhythm. No appreciable murmurs 
Pulmonary: Lung fields clear to auscultation bilaterally. 
Breathing comfortably on room air.
Abdomen: Well-healed midline laparotomy scar.  Otherwise soft,
nontender, nondistended.
Back: Some paraspinal tenderness on right upper thoracic spine
around T1-T2.
Extremities: Fourth and fifth digit of right hand partially
contracted.  Otherwise warm, well-perfused, nonedematous.
 
Pertinent Results:
Admission labs:
---------------
___ 05:43AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 05:43AM URINE  RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:39PM   ___ PTT-29.6 ___
___ 07:39PM   PLT COUNT-216
___ 07:39PM   NEUTS-55.6 ___ MONOS-10.9 EOS-2.9 
BASOS-0.6 IM ___ AbsNeut-5.30 AbsLymp-2.82 AbsMono-1.04* 
AbsEos-0.28 AbsBaso-0.06
___ 07:39PM   WBC-9.6 RBC-4.81 HGB-13.6* HCT-42.3 MCV-88 
MCH-28.3 MCHC-32.2 RDW-13.6 RDWSD-44.2
___ 07:39PM   CALCIUM-9.3 PHOSPHATE-3.7 MAGNESIUM-1.9
___ 07:39PM   GLUCOSE-79 UREA N-16 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-29 ANION GAP-8

Pertinent labs:
---------------
___ 06:40AM BLOOD WBC-9.4 RBC-4.82 Hgb-13.6* Hct-42.4 
MCV-88 MCH-28.2 MCHC-32.1 RDW-13.6 RDWSD-43.8 Plt ___
___ 08:07AM BLOOD WBC-9.6 RBC-4.95 Hgb-14.1 Hct-43.8 MCV-89 
MCH-28.5 MCHC-32.2 RDW-13.5 RDWSD-43.8 Plt ___
___ 07:40AM BLOOD WBC-11.0* RBC-5.62 Hgb-15.9 Hct-49.9 
MCV-89 MCH-28.3 MCHC-31.9* RDW-13.7 RDWSD-44.5 Plt ___

___ 06:40AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 09:26PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-NEG

Discharge labs:
---------------
___ 07:40AM BLOOD WBC-11.0* RBC-5.62 Hgb-15.9 Hct-49.9 
MCV-89 MCH-28.3 MCHC-31.9* RDW-13.7 RDWSD-44.5 Plt ___
___ 07:40AM BLOOD Glucose-96 UreaN-19 Creat-0.9 Na-139 
K-4.9 Cl-99 HCO3-27 AnGap-13

Pertinent Imaging/Studies:
___ CTA
1. Unremarkable CT examination of the head and neck without 
evidence of 
high-grade stenosis, occlusion, dissection, or aneurysm. 

___ MR ___
1. Unremarkable orbit MRI. 
2. Very few nonspecific FLAIR white matter hyperintensities of 
left frontal 
lobe.  In a patient this age differential consideration is broad 
and may 
represent sequela prior trauma, chronic headache or 
fracture/inflammatory 
etiology. 

___ CT Thoracic
1. No acute thoracic spine fracture. 
2. A 1.1 cm metallic object adjacent to the left side of the L1 
vertebral body with adjacent bony irregularity may represent a 
retained bullet given the history of gunshot wounds. 

___ MR ___
1. Unchanged, unremarkable appearance of the orbits. 
2. No evidence for acute intracranial abnormalities.  Unchanged 
minimal 
scattered small foci of high T2 signal in the supratentorial 
white matter, 
nonspecific in this age group, which may be seen in asymptomatic 
patients, may be associated with migraines, or may represent 
sequela of prior inflammation or trauma. 
3. Decreased soft tissue swelling in the right frontal scalp. 
 
Brief Hospital Course:
Mr. ___ is a ___ male with PMHx notable for 
multiple traumatic injuries s/p ex-lap with partial colectomy 
admitted for decreased right eye visual acuity, left homonymous 
hemianopsia, and right upper extremity weakness and paresthesias 
following traumatic strike to head with fall and loss of 
consciousness.

ACUTE ISSUES:
=============
#Traumatic head injury:
#R vision loss
#L homonymous hemianopsia w/ blurry vision:
Patient had acute onset of visual deficits alongside right-sided 
headache following traumatic head injury. Patient reported loss 
of right-sided vision (only able to see light) and left 
homonymous hemianopsia and was evaluated by Neuro and Ophtho. No 
clear cause was identified. MR head and CTA head/neck showed no 
acute process. A MR head was done 48 hours later (___) to 
evaluate for delayed changes but was also within normal limits. 
Neurology recommended no further inpatient workup and will plan 
to see patient in 2 months. Ophthalmology recommended follow-up 
as outpatient in 1 week (around ___ for formal visual field 
testing. The patient's pain was managed with oxycodone. Of note, 
the patient reported several psychosocial stressors so despite 
being a diagnosis of exclusion, psychiatric disease is being 
considered as cause for patient's ongoing neurologic deficits. 
Patient was agreeable to being transferred to the inpatient 
psychiatric facility. Unfortunately, on ___, after being told 
that he could not leave the hospital, the patient became 
increasingly agitated and threatened to use violence. Public 
safety and Stat code purple were called; unfortunately, the 
patient continued to endorse homicidal intent and left against 
medical advice despite an active ___. ___ Police 
Department was notified.

#RUE pain/paresthesias: Alongside above neurological symptoms, 
patient also reported pain in his right arm related to numbness 
and tingling. A CT Thoracic spine was without abnormality, and 
neuro did not recommend a MR thoracic spine. The symptoms were 
thought likely related to radiculopathy in setting of trauama. 
His symptoms improved with baclofen 10 mg PO/NG TID. The patient 
left against medical advice and was not discharged with any 
medications.

#Suicidal and Homicidal Ideation: On the night of admission on 
___, the patient expressed desire to leave AMA. On further 
conversation, many psychosocial stressors were elicited 
including recent divorce and loss of custody of his children, 
recent death of mother, recent death of pet dog, and suspicion 
of family. He reported multiple suicide attempts in the past and 
endorsed desire to hurt self and others. Psychiatry was 
consulted and evaluated the patient. He was placed under ___. Patient was also started on seroquel for anxiety. Following 
completion of medical work-up as above, the patient was 
agreeable to being transferred to the inpatient psych facility. 
He endorsed fear that he would hurt himself or others. Although 
the patient was medically cleared, he was still maintained on 
the inpatient medicine service while awaiting transition. 
According to psychiatric evaluation, the patient was interested 
and actively pursuing psychiatric care. Unfortunately, on ___ 
the situation de-escalated quickly and the patient became 
increasingly agitated and violent. Despite the presence of a 
public safety officer, the patient voiced desire to leave 
against medical advice and was able to elope. Of note, the 
patient should be brought back to the ED and for inpatient 
psychiatric hospitalization whenever possible given a continued 
active ___ and fear for his own safety and the safety of 
others. 

TRANSITIONAL:
=============
[ ] Patient left against medical advice. ___ Police 
Department notified. He should be brought back for inpatient 
psychiatric hospitalization.
[ ] Patient will need to follow up with neurology (next 
available, no specific physician) in 2 months (early ___
[ ] Patient will need to follow up with ophthalmology for visual 
field testing in 1 week (around ___

FULL CODE
No HCP
Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Patient left AMA. No discharge medications.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
---------
Traumatic head injury with fall
Suicidal and homicidal ideation and intent requiring ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WERE YOU ADMITTED?
- You were admitted following a work-related accident with 
trauma to your head
- You had problems with your vision after your accident

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You had CT and MRI scans of your head and neck, which did not 
show any signs of damage.
- You also had an ophthalmologist (eye doctor) evaluate your 
vision, but they did not find any cause for your symptoms.
- We think that your symptoms are related to your accident but 
will resolve over the next few days to weeks. We do not think 
that you will have any permanent neurological damage. You can 
take medications for the pain. 
- You have had many losses lately and have many reasons to be 
very stressed, so we had psychiatry come by to help you with 
some of these issues.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- You left the hospital against medical advice. We believe that 
you would benefit from seeing psychiatry as an inpatient.

It was a pleasure taking care of you! We wish you the best.
- Your ___ Team
 
Followup Instructions:
___